US07241791B2
Step 1: 7-(4-methoxyphenyl)-3-(4-methoxyphenyl)-1-propyl-1H-indazole
To a stirred solution of 7-chloro-3-(4-methoxyphenyl)-1-propyl-1H-indazole (0.10 g, 0.33 mmol) in anhydrous dioxane (3 mL) was added tris(dibenzylideneacetone)dipalladium(0) (0.004 g, 0.0043 mmol) and 1,3-bis(2,4,6-trimethylphenyl)imidazol-2-ylidene HCl (0.0035 g, 0.0099 mmol). 4-Methoxyphenylmagnesium bromide (1.2 mL, 0.5M in diethyl ether) was added and the reaction mixture degassed. The reaction was heated to 80° C. for 18 hours. The reaction mixture was partitoned with 1N HCl and ethyl acetate. The organic layer was washed with water and brine. After drying (Na2SO4), the organic phase was concentrated in vacuo to yield crude title compound. The oil was purified by flash chromatography (silica gel, hexane/ethyl acetate, 5:1) to provide the title compound as a white solid (0.028 g).

reactant | 7-chloro-3-(4-methoxyphenyl)-1-propyl-1H-indazole | 0.33 mmol, 0.10 g | ClC=1C=CC=C2C(=NN(C12)CCC)C1=CC=C(C=C1)OC | C17H17ClN2O
reactant | 4-Methoxyphenylmagnesium bromide | 0.5M, 1.2 mL | COC1=CC=C(C=C1)[Mg]Br
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0043 mmol, 0.004 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-(4-methoxyphenyl)-3-(4-methoxyphenyl)-1-propyl-1H-indazole | 0.028 g | COC1=CC=C(C=C1)C=1C=CC=C2C(=NN(C12)CCC)C1=CC=C(C=C1)OC | C24H24N2O2
